US08470884B2
A round bottom flask was charged with 3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (5.0 g, 0.027 mol), triphenylphosphine (10.5 g, 0.0401 mol), iodine (10.16 g, 0.0401 mol), imidazole (2.72 g, 0.0401 mol), and methylene chloride (90 mL). The reaction mixture was stirred at room temperature overnight. The reaction mixture was filtered, and the collected solids were washed with methylene chloride. The combined organic layers were concentrated. The resulting crude product was dissolved in ethyl acetate, and the organic phase was washed with water. The ethyl acetate layer was washed with a 3:1 mixture of water and methanol to remove triphenylphosphine oxide. The ethyl acetate layer was then washed with brine, dried over anhydrous MgSO4, filtered, and concentrated. The crude product was loaded onto a 330 gram silica gel column. Flash chromatography afforded 3-iodo-pyrrolidine-1-carboxylic acid tert-butyl ester (6.9 g, 87%). 1H NMR (400 MHz, CDCl3) δ ppm 4.31-4.42 (m, 1H), 3.84 (dd, J=12.60, 6.30 Hz, 1H), 3.67-3.79 (m, 1H), 3.54-3.64 (m, 1H), 3.40-3.49 (m, 1H), 2.20-2.32 (m, 2H), 1.48 (s, 8H). MS cald. for C5H71NO2 [(M-C4H9)+] 241, obsd. 241.7, 282.7 [(M-C4H9+41)+].

reactant | 3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.027 mol, 5.0 g | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
reactant | triphenylphosphine | 0.0401 mol, 10.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 0.0401 mol, 10.16 g | II | I2
reactant | imidazole | 0.0401 mol, 2.72 g | N1C=NC=C1 | C3H4N2
solvent | methylene chloride | 90 mL | C(Cl)Cl | CH2Cl2
product | 3-iodo-pyrrolidine-1-carboxylic acid tert-butyl ester | 6.9 g, 87% | C(C)(C)(C)OC(=O)N1CC(CC1)I | C9H16INO2
